US07291635B2
A solution of the title A compound, 3-[5-(2,4-dimethoxybenzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]benzoic acid methyl ester is stirred in 2 mL of TFA/CH2Cl2 (1:1) at RT for 16 h. The volatiles are evaporated and the residue is stirred in 4 mL of MeCN/water (1:1) for 20 min. The mixture is filtered through a 0.2 μM Acrodisc and evaporated. The residue is triturated from Et2O at −50° C. to give 3-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)benzoic acid methyl ester as a pink solid: [M−1]−=269.

reactant | 3-[5-(2,4-dimethoxybenzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]benzoic acid methyl ester | COC(C1=CC(=CC=C1)N1S(N(C(C1)=O)CC1=C(C=C(C=C1)OC)OC)(=O)=O)=O | C19H20N2O7S
solvent | TFA CH2Cl2 | 2 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 3-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)benzoic acid methyl ester | COC(C1=CC(=CC=C1)N1S(NC(C1)=O)(=O)=O)=O | C10H10N2O5S
